US09085583B2
To a solution of (±)-tert-butyl 1-(3-hydroxy-3-methylbutan-2-yl)-2-methyl-1H-indole-3-carboxylate (0.2594 g, 0.817 mmol) and THF (8 mL), in a 50 mL round bottom flask, cooled to 0° C. was added sodium hydride (0.065 g, 1.634 mmol). The reaction was then heated at 45° C. for 2 h then iodomethane (0.102 ml, 1.634 mmol) was added and the reaction was heated at that temperature overnight. The reaction was quenched with 1N HCl and brine, extracted with EtOAc, dried over Na2SO4, filtered, concentrated, deposited onto silica gel with aid of DCM, and purified by column chromatography using 5% EtOAc in Hex as eluent to provide (±)-tert-butyl 1-(3-methoxy-3-methylbutan-2-yl)-2-methyl-1H-indole-3-carboxylate (257.8 mg, 95%). LRMS (M+H+) m/z: calcd 332.45. found 332.2.

reactant | (±)-tert-butyl 1-(3-hydroxy-3-methylbutan-2-yl)-2-methyl-1H-indole-3-carboxylate | 0.817 mmol, 0.2594 g | OC(C(C)N1C(=C(C2=CC=CC=C12)C(=O)OC(C)(C)C)C)(C)C | C19H27NO3
reactant | sodium hydride | 1.634 mmol, 0.065 g | [H-].[Na+]
reactant | iodomethane | 1.634 mmol, 0.102 ml | IC | CH3I
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (±)-tert-butyl 1-(3-methoxy-3-methylbutan-2-yl)-2-methyl-1H-indole-3-carboxylate | 257.8 mg, 95% | COC(C(C)N1C(=C(C2=CC=CC=C12)C(=O)OC(C)(C)C)C)(C)C | C20H29NO3
